US07897630B2
Preparation of 5-[(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-2-(methylsulfonyl)benzonitrile
To a solution of 5-[(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-2-(methylthio)benzonitrile (i.e. the product of Example 5) (0.42 g, 1.0 mmol) in 20 mL of dichloromethane was added 3-chloroperoxybenzoic acid (0.90 g of ˜77% peracid, 4.0 mmol) in one portion, and the mixture was stirred at ambient temperature overnight. Aqueous sodium bisulfite solution was added, and after several minutes solid potassium carbonate was added. The layers were separated, and the organic phase was dried over magnesium sulfate and concentrated to leave a solid. The solid was triturated with a mixture of diethyl ether and hexanes, collected on a glass frit, and dried in air to afford the title product, a compound of the present invention, as a white solid (0.38 g).

reactant | 5-[(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-2-(methylthio)benzonitrile | ClC=1C=C(C=C(C1)Cl)C1C(=NOC1C(F)(F)F)C=1C=CC(=C(C#N)C1)SC | C18H11Cl2F3N2OS
reactant | 3-chloroperoxybenzoic acid | 4.0 mmol, 0.90 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-[(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-2-(methylsulfonyl)benzonitrile | ClC=1C=C(C=C(C1)Cl)C1C(=NOC1C(F)(F)F)C=1C=CC(=C(C#N)C1)S(=O)(=O)C | C18H11Cl2F3N2O3S
